US06358971B1
2-Amino-3-(2,4-difluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine
The 2-trifluoroacetamido-3-(2,4-difluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine (9.24 g, 20.8 mmol) was dissolved in 250 ml of MeOH and 170 ml of 1N NaOH. The solution was stirred at RT under N2 for 2 weeks. The precipitant was filtered and the filter cake was dissolved in 900 ml of EtOAc. The solution was washed with brine (3×50 ml), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was recrystalized from EtOAc/hexane to give 2 crops yielding 5.57 g. (76.8%). EA, MS(FD).

reactant | 2-trifluoroacetamido-3-(2,4-difluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine | 20.8 mmol, 9.24 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=C(C=C(C=C1)F)F)(F)F | C22H12F5N3O2
reactant | EA | CC(OCC)=O | C4H8O2
solvent | MeOH | 250 ml | CO | CH4O
solvent | NaOH | 1N, 170 ml | [OH-].[Na+]
product | 2-Amino-3-(2,4-difluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine | NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=C(C=C(C=C1)F)F | C20H13F2N3O
